* C:\Users\aguse\OneDrive\Escritorio\Fiuba\2025\TPP\0.1 PRELIMINAR\Simulaciones\Preamplificador\Analog-dev-sim\Transient_Simulation.asc
Vsensor N016 0 SINE(0 50u 50 0 0 180) AC 1
R1 N005 N004 51k
C1 N005 N004 47n
E1 N004 N012 N008 0 .5
E2 N012 N018 N017 0 .5
Vcm N012 0 1.65
R3 N003 N005 200k
R4 N015 N019 200k
R2 N019 N018 51k
C2 N019 N018 47n
VDD-1 Vp-1 0 5
VSS-1 Vn-1 0 -5
VDD-2 V+-2 0 3.3
VSS-2 V--2 0 -3.3
R1-2 N014 N013 549
R1-3 0 Vout_HP 1.6k
C1-3 Vout_HP Vout_IA 10µ
R2-4A N011 N010 13k
R1-4A N010 Vout_HP 13k
C2-4A N011 0 4n
C1-4A out N010 8.2n
VDD-4A Vp-4A 0 3.3
VSS-4A Vn-4A 0 -3.3
XU1 N001 N009 V+-2 V--2 Vout_IA Vref N013 N014 AD620
R5 0 N020 5k
R6 N020 V+-2 5k
XU3 N015 N009 Vp-1 Vn-1 N009 TL072
XU2 N003 N001 Vp-1 Vn-1 N001 TL072
XU6 N020 Vref Vp-1 0 Vref TL072
XU4 N011 N002 Vp-1 Vn-4A out TL072
Vsensor1 N017 N016 SINE(0 10u 4k 0 0 0) AC 1
Vsensor2 N007 N006 SINE(0 50u 1hz) AC 1
Vsensor3 N006 0 SINE(0 50u 50 0 0 0) AC 1
Vdif N008 N007 SINE(0 100u 200 0 0 0) AC 1
R7 out N002 27k
R8 out 0 10k
.tran 35m ;uic
* Electrodes simplified model
.param {Rvar_tot} = 10k {Rvar_a} = 1k
* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
* Señales generadas de frecuencias 1Hz, 50Hz, 200Hz, 4kHz.\nRepresentan ruido de movimiento, red, internos\nSeñal util de 200Hz
.lib C:\Users\aguse\OneDrive\Escritorio\Fiuba\2025\TPP\Pre-amplificador\ad620-module\AD620-v1.txt
.backanno
.end
